US05510360
Step a) 4.5-Dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole N-oxide hydrochloride
HCl gas (21.2 g, 58.1 mmol) was bubbled via syringe into 0° C. solution of 4-trifluoromethylbenzaldehyde (50 g, 28.7 mmol), 2,3-butanedione monoxime (26.40 g, 26.1 mmol), and EtOAc (105 ml). The reaction was stirred at 5° C. for 3 h. Ice cold ether (575 ml) was then added, and the resultant precipitate was filtered, washed with ether, and dried at 25° C. for 16 h to give the product as a white solid (54.79 g 71% yield, mp 149°-159° C.

reactant | HCl | 58.1 mmol, 21.2 g | Cl | ClH
reactant | 4-trifluoromethylbenzaldehyde | 28.7 mmol, 50 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 2,3-butanedione monoxime | 26.1 mmol, 26.40 g | C/C(=N\O)/C(=O)C | C4H7NO2
solvent | EtOAc | 105 ml | CCOC(=O)C | C4H8O2
product | 4.5-Dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole N-oxide hydrochloride | 71% yield | Cl.CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)[O-] | InChI=1S/C12H10F3NO2.ClH/c1-7-8(2)18-11(16(7)17)9-3-5-10(6-4-9)12(13,14)15;/h3-6H,1-2H3;1H
